US07018559B2
B. Synthesis of 3-(2-Ethylhexoxymethyl)cyclohexene
A 500 mL round bottom flask equipped with a mechanical stirrer was charged with 33.6g (0.30 mol) cyclohexene-1-methanol, and 260 mL of DMSO. Sodium hydride (8.43 g, 95% in purity; 0.334 mol) was slowly added to above mixture in ice bath over 40 min. After the above mixture was reacted at room temperature for 2 hrs, the reaction mixture was warmed to room temperature. 2-Ethylhexyl tosylate (85.2 g, 0.30 mol) was slowly added to the above mixture over 15 min. The reaction was carried out for another 1 hr at room temperature, then 60° C. for 2 hrs. The reaction mixture was added to water (200 mL), and then extracted with chloroform (3×180 mL), washed with water (2×100 mL). The organic layer was evaporated and the residue distilled to give pure product.

reactant | cyclohexene-1-methanol | 0.30 mol, 33.6g | C1(=CCCCC1)CO | C7H12O
reactant | DMSO | 260 mL | CS(=O)C | C2H6OS
reactant | Sodium hydride | 8.43 g | [H-].[Na+]
reactant | 2-Ethylhexyl tosylate | 0.30 mol, 85.2 g | S(=O)(=O)(OCC(CCCC)CC)C1=CC=C(C)C=C1 | C15H24O3S
solvent | water | 200 mL | O | H2O
product | 3-(2-Ethylhexoxymethyl)cyclohexene | C(C)C(COCC1C=CCCC1)CCCC | C15H28O
